US05470896
53.1 g (0.2 mol) of 2,4,6-tris(dimethylaminomethyl)phenol and 6.8 g (0.02 mol) of tetrabutylammonium hydrogen sulfate are placed in 100 ml of toluene in a 350 ml sulfonating flask having an anchor mixer, thermometer, reflux condenser and dropping funnel and at RT 40 g (0.5 tool) of a 50% aqueous NaOH solution are added dropwise in the course of 30 minutes. The suspension is then stirred for 30 minutes at 80° C. and then at the same temperature 54.8 g (0.4 mol) of butyl bromide are added in the course of 45 minutes. After a subsequent reaction period of 3 hours the mixture is cooled and filtered, and the filtrate is washed once with 30 ml of H2O, dried over MgSO4, filtered and concentrated by evaporation, yielding 48 g of 2,4,6-tris(dimethylaminomethyl)phenylbutyl ether in the form of a brown liquid which no longer has an OH band in the IR spectrum and of which the NMR analysis is in agreement with the said structure.

reactant | 2,4,6-tris(dimethylaminomethyl)phenol | 0.2 mol, 53.1 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)O | C15H27N3O
reactant | NaOH | [OH-].[Na+]
reactant | butyl bromide | 0.4 mol, 54.8 g | C(CCC)Br | C4H9Br
catalyst | tetrabutylammonium hydrogen sulfate | 0.02 mol, 6.8 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,6-tris(dimethylaminomethyl)phenylbutyl ether | 48 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)CCCCOCCCCC1=C(C=C(C=C1CN(C)C)CN(C)C)CN(C)C | C38H68N6O
